US07754737B2
A 50-mL round bottom flask was charged with 3-((2-(cyclopropylethynyl)phenyl)(3-methoxypropoxy)methyl)-1-(2-(trimethylsilyl)ethylsulfonyl)piperidine (63 mg, 0.128 mmol, 1.0 equiv), tetraethylammonium fluoride (63 mg, 0.422 mmol, 3.4 equiv) and acetonitrile (5 mL). The mixture was heated to 65° C. for 17 h. Analysis of the yellow reaction mixture by LC-MS showed consumption of the protected piperidine and formation of a new signal containing the mass of the desired product. The acetonitrile was removed under reduced pressure and the residue was partitioned between CH2Cl2 and water. The layers were separated and the aqueous layer was extracted twice with additional CH2Cl2. The combined organic layers were washed with brine, dried over Na2SO4 and evaporated, yielding 3-((3-methoxypropoxy)(2-(2-cyclopropylethynyl)phenyl)methyl)piperidine (40 mg, 95%). No additional purification was attempted. MS ESI+ve m/z 328 (M+H+).

reactant | 3-((2-(cyclopropylethynyl)phenyl)(3-methoxypropoxy)methyl)-1-(2-(trimethylsilyl)ethylsulfonyl)piperidine | 0.128 mmol, 63 mg, 1.0 equiv | C1(CC1)C#CC1=C(C=CC=C1)C(C1CN(CCC1)S(=O)(=O)CC[Si](C)(C)C)OCCCOC | C26H41NO4SSi
reactant | tetraethylammonium fluoride | 0.422 mmol, 63 mg, 3.4 equiv | [F-].C(C)[N+](CC)(CC)CC
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 3-((3-methoxypropoxy)(2-(2-cyclopropylethynyl)phenyl)methyl)piperidine | 40 mg, 95% | COCCCOC(C1CNCCC1)C1=C(C=CC=C1)C#CC1CC1 | C21H29NO2
